US07494992B2
((1S,2R,4aS,5S,8R,8aR)-8a-hydroxy-3,8-dimethyl-5-(1-methylethyl)-2-{[(prop-2-enyloxy)carbonyl]oxy}-1,2,4a,5,6,7,8,8a-octahydronaphthalen-1-yl (2S,3aR,9bR)-6-chloro-9b-hydroxy-5-methyl-1,2,3,3a,5,9b-hexahydropyrrolo[2,3-c][2,1]benzoxazine-2-carboxylate
Allyl chloroformate (17.4 mg) was added to a stirred, cooled (0° C.) solution of (1S,4aS,5S,8aR)-2,8a-dihydroxy-3,8-dimethyl-5-(1-methylethyl)-1,2,4a,5,6,7,8,8a-octahydronaphthalen-1-yl (2S,3aR,9bR)-6-chloro-9b-hydroxy-5-methyl-1,2,3,3a,5,9b-hexahydropyrrolo[2,3-c][2,1]benzoxazine-2-carboxylate (Preparation 144, 50 mg) and 4-dimethylaminopyridine (35 mg) in dichloromethane (5 ml) under an atmosphere of nitrogen. After 30 minutes, the reaction was allowed to warm to room temperature over 15 hours. The reaction mixture was diluted with dichloromethane (25 ml), washed with aqueous citric acid (10% w/w, 3×15 ml) and dried (MgSO4). After evaporation of solvent in vacuo, the residue was purified by flash column chromatography on silica (5 g) eluting with 1:1 ethyl acetate:hexane to give the product (44 mg, 76%).

reactant | Allyl chloroformate | 17.4 mg | ClC(=O)OCC=C | C4H5ClO2
reactant | (1S,4aS,5S,8aR)-2,8a-dihydroxy-3,8-dimethyl-5-(1-methylethyl)-1,2,4a,5,6,7,8,8a-octahydronaphthalen-1-yl (2S,3aR,9bR)-6-chloro-9b-hydroxy-5-methyl-1,2,3,3a,5,9b-hexahydropyrrolo[2,3-c][2,1]benzoxazine-2-carboxylate | 50 mg | ClC1=CC=CC=2[C@]3([C@@H](ON(C21)C)N[C@@H](C3)C(=O)O[C@H]3C(C(=C[C@@H]2[C@@H](CCC([C@]32O)C)C(C)C)C)O)O | C27H37ClN2O6
catalyst | 4-dimethylaminopyridine | 35 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | (1S,2R,4aS,5S,8R,8aR)-8a-hydroxy-3,8-dimethyl-5-(1-methylethyl)-2-{[(prop-2-enyloxy)carbonyl]oxy}-1,2,4a,5,6,7,8,8a-octahydronaphthalen-1-yl (2S,3aR,9bR)-6-chloro-9b-hydroxy-5-methyl-1,2,3,3a,5,9b-hexahydropyrrolo[2,3-c][2,1]benzoxazine-2-carboxylate | 44 mg, 76% | ClC1=CC=CC=2[C@]3([C@@H](ON(C21)C)N[C@@H](C3)C(=O)O[C@H]3[C@@H](C(=C[C@@H]2[C@@H](CC[C@H]([C@]32O)C)C(C)C)C)OC(=O)OCC=C)O | C31H41ClN2O8
